** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/tb_v-to-i_dc.sch
**.subckt tb_v-to-i_dc
VDD net4 GND 3.3
Vg net1 GND 0
vout1 net3 net2 0
.save i(vout1)
XM8 net2 net1 GND GND sg13_hv_nmos w=0.3u l=1u ng=1 m=1 mm_ok=1
XM6 net3 net3 net4 net4 sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
**** begin user architecture code


.include ../../../netlist/pex/inverter_magic_pex_3.spice
.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.control

save all

* Operating Point Analysis
op
remzerovec
write tb_v-to-i_dc.raw
set appendwrite

* DC Sweep
dc Vg 0 3.3 0.01
remzerovec
write tb_v-to-i_dc.raw
set appendwrite

* Plotting
plot i(vout1)

* Measurement
*meas dc Vgsp_at_Vcm when vout=Vcm
*print Vgsp_at_Vcm

* Write Data
*unset appendwrite
*set wr_vecnames
*set wr_singlescale
*wrdata ../plot_simulations/data/tb_v-to-i_dc.txt v(vin) v(vout)

*quit
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt

**** end user architecture code
**.ends
.GLOBAL GND
.end
